2136-07-26 06:37:00 Physician Resident Progress Note
Chief Complaint: No new complaints.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2136-7-25**] 04:39 PM
 EKG - At [**2136-7-25**] 04:48 PM
 EKG - At [**2136-7-25**] 05:00 PM
 ENDOSCOPY - At [**2136-7-25**] 05:30 PM
 ARTERIAL LINE - START [**2136-7-25**] 08:09 PM
 FEVER - 103.2
F - [**2136-7-25**] 05:00 PM
   -Hct stable overnight
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2136-7-25**] 06:24 PM
   Ceftriaxone - [**2136-7-25**] 07:30 PM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2136-7-25**] 07:30 PM
   Fentanyl - [**2136-7-26**] 03:30 AM
   Midazolam (Versed) - [**2136-7-26**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-26**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37
C (98.6
   HR: 63 (62 - 148) bpm
   BP: 122/59(82) {85/48(63) - 126/63(85)} mmHg
   RR: 17 (14 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  9,099 mL
                                                                  1,634 mL
   PO:
           TF:
   IVF:
                                                                  5,500 mL
                                                                  1,120 mL
   Blood products:
                                                                  1,600 mL
                                                                    514 mL
   Total out:
                                                                    693 mL
                                                                    255 mL
   Urine:
                                                                    343 mL
                                                                    255 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  8,406 mL
                                                                  1,379 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.31/37/82.[**Numeric Identifier 253**]/19/-6
   Ve: 9.4 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   98 K/uL
   10.7 g/dL
   100 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.3 mEq/L
   26 mg/dL
   114 mEq/L
   139 mEq/L
   33.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2136-7-25**]  09:15 PM
                             [**2136-7-25**]  11:06 PM
                             [**2136-7-26**]  02:54 AM
                             [**2136-7-26**]  04:12 AM
                             [**2136-7-26**]  04:35 AM
   WBC
   8.5
   11.0
   Hct
   25.9
   33.2
   Plt
   76
   98
   Cr
   0.7
   0.7
   TCO2
   17
   19
   20
   Glucose
   138
   100
   Other labs: PT / PTT / INR:15.6/36.9/1.4, ALT / AST:35/59, Alk Phos / T
   Bili:74/2.5, Lactic Acid:2.0 mmol/L, Ca++:6.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Imaging: CXR- ET tube 5cm above carina. Both lungs (R>L) alveolar
   densities; RUL changes are confluent; ill defined opacities predominant
   in perihilar lung regions. No LAD. No pleural effusions. No
   cardiomegaly. Overall suggestive of parenchymal bleeding or diffuse
   alveolar changes.
   Microbiology: [**2136-7-26**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2136-7-26**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2136-7-25**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Assessment and Plan: This is a 54 yo f with h/o Hepatitis C infection
   and cirrohsis presenting with UGIB.
   # UGIB - s/p EGD which showed no varices, but multiple ulcers and s/p
   clipping of ulceration with clot in lesser curvature of fundus.
   Findings more consistent with NSAID-induced vs H Pylori PUD.  Pt with
   recent history of motrin use per family though dosage uncertain.
   - PPI drip & ceftriaxone per hepatology.
   - d/c octreotide per hepatology
   - surgery and hepatology consult appreciated
   - monitor Hct Q8hr, transfuse to Hct of 30.
   - s/p FFP given for INR 1.5
   - IVF and pressors PRN to keep MAP >65. If not off pressors by
   afternoon, will place IJ
   .
   #  Respiratory failure - Patient intubated for airway protection in the
   setting of hemetemsis and AMS.  Pt with large aspiration of blood
   during intubation.  no CXR prior to intubation so unclear if
   infiltrates r/t to observed aspiration vs previous aspiration/evolving
   PNA.
   - wean vent as able, try psv today. f/u ABGs
   - ipratropium and albuterol MDIs, hold advair for now
   - abx as below
   .
   # Fevers - patient with fevers over the last 2 days.  unclear [**Name2 (NI) 3995**]
   at this time.  Patient most likely has an aspiration PNA/pneumonitis.
   - blood, sputum and urine cx.
   - cover with vancomycin, cefepime and flagyl - narrow abx as able
   .
   # Hepatitis C treatment - continue ribavirin.
   .
   # Depression/anxiety - continue sertraline.
   .
   # FEN: IVF bolus PRN, replete electrolytes, NPO for now
   .
   # Prophylaxis: pneumoboots, PPI ggt, mouth care, HOB elevation
   .
   # Access: 4 PIVs.
   .
   # Code: FULL discussed with HCP, husband [**Name (NI) 174**]
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-7-25**] 04:50 PM
   20 Gauge - [**2136-7-25**] 04:50 PM
   Arterial Line - [**2136-7-25**] 08:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-07-26 10:33:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   EGD: showed diffuse gastric/duodenal erosions.  Fundic ulcer clipped.
   No varices.
   Hemodynamically stable overnight
   24 Hour Events:
 INVASIVE VENTILATION - START [**2136-7-25**] 04:39 PM
 EKG - At [**2136-7-25**] 04:48 PM
 EKG - At [**2136-7-25**] 05:00 PM
 ENDOSCOPY - At [**2136-7-25**] 05:30 PM
 ARTERIAL LINE - START [**2136-7-25**] 08:09 PM
 FEVER - 103.2
F - [**2136-7-25**] 05:00 PM
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2136-7-25**] 06:24 PM
   Ceftriaxone - [**2136-7-25**] 07:30 PM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2136-7-25**] 07:30 PM
   Fentanyl - [**2136-7-26**] 03:30 AM
   Midazolam (Versed) - [**2136-7-26**] 04:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-7-26**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.2
C (98.9
   HR: 63 (61 - 148) bpm
   BP: 105/55(74) {85/48(63) - 138/68(95)} mmHg
   RR: 13 (13 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  9,099 mL
                                                                  2,342 mL
   PO:
           TF:
   IVF:
                                                                  5,500 mL
                                                                  1,828 mL
   Blood products:
                                                                  1,600 mL
                                                                    514 mL
   Total out:
                                                                    693 mL
                                                                    425 mL
   Urine:
                                                                    343 mL
                                                                    425 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  8,406 mL
                                                                  1,917 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 439 (439 - 439) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.31/37/82.[**Numeric Identifier 253**]/19/-6
   Ve: 8.4 L/min
   PaO2 / FiO2: 166
   Physical Examination
   General Appearance: No acute distress, intubated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   throughout right, Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   98 K/uL
   100 mg/dL
   0.7 mg/dL
   19 mEq/L
   4.3 mEq/L
   26 mg/dL
   114 mEq/L
   139 mEq/L
   33.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2136-7-25**]  09:15 PM
                             [**2136-7-25**]  11:06 PM
                             [**2136-7-26**]  02:54 AM
                             [**2136-7-26**]  04:12 AM
                             [**2136-7-26**]  04:35 AM
   WBC
   8.5
   11.0
   Hct
   25.9
   33.2
   Plt
   76
   98
   Cr
   0.7
   0.7
   TCO2
   17
   19
   20
   Glucose
   138
   100
   Other labs: PT / PTT / INR:15.6/36.9/1.4, ALT / AST:35/59, Alk Phos / T
   Bili:74/2.5, Lactic Acid:2.0 mmol/L, Ca++:6.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   54 yo woman with Hep C/cirrhosis, upper GI blled, blood loss anemia
   1. GI Bleed: EGD done with clipping of gastric ulcer.  INR 1.4.  Hct >
   30
   2. Respiratory Failure:  Changing to PSV 5/5.  CXR worse today.  Will
   cont to treat for aspiration pneumonia with [**Doctor Last Name **]/cefepime/flagyl.
   3. Hypotension: Mostly sedation related at the moment, but in light of
   fever could be some component of sepsis
   Remainder of issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-7-25**] 04:50 PM
   20 Gauge - [**2136-7-25**] 04:50 PM
   Arterial Line - [**2136-7-25**] 08:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2136-07-27 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2136-7-26**] 08:35 AM
 BRONCHOSCOPY - At [**2136-7-26**] 03:00 PM
 BLOOD CULTURED - At [**2136-7-26**] 03:35 PM
 BAL FLUID CULTURE - At [**2136-7-26**] 03:35 PM
 FEVER - 103.5
F - [**2136-7-26**] 04:00 PM
   -bronch showed bright red blood throughout r lung. BAL shows pmns, no
   bugs, Cx pending
   -GI recs: lactulose, ppi, abx (I started lactulose, rest already done)
   -ETT 5cm above [**Female First Name (un) 5906**]
   -gen [**Doctor First Name 91**] did not come by
   -spiking temps, Cultures pending however, most likely fevers are [**12-26**]
   blood in lungs
   -did write for tylenol for fevers 325-650 q12h (so not a lot) [**12-26**] pt's
   cirrhosis
   -h pylori ab ordered, will need f/u
   -pm abg 7.34/38/90
   -hct down from 32 to 30 (11pm), still suctioning some blood from ETT
   but not a lot, did not transfuse, will f/u am hct
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-7-26**] 08:29 PM
   Vancomycin - [**2136-7-26**] 08:30 PM
   Metronidazole - [**2136-7-27**] 02:15 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2136-7-26**] 03:00 PM
   Fentanyl - [**2136-7-26**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-27**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 36.7
C (98
   HR: 66 (61 - 97) bpm
   BP: 94/51(68) {89/50(66) - 158/88(115)} mmHg
   RR: 10 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,276 mL
                                                                    315 mL
   PO:
             TF:
   IVF:
                                                                  3,762 mL
                                                                    315 mL
   Blood products:
                                                                    514 mL
   Total out:
                                                                  1,450 mL
                                                                    375 mL
   Urine:
                                                                  1,395 mL
                                                                    375 mL
   NG:
                                                                     55 mL
   Stool:
   Drains:
   Balance:
                                                                  2,826 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 662 (311 - 662) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Spine
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.32/39/91.[**Numeric Identifier 253**]/20/-5
   Ve: 7 L/min
   PaO2 / FiO2: 184
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   77 K/uL
   9.5 g/dL
   95 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.8 mEq/L
   24 mg/dL
   117 mEq/L
   143 mEq/L
   30.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2136-7-26**]  04:12 AM
                             [**2136-7-26**]  04:35 AM
                             [**2136-7-26**]  11:32 AM
                             [**2136-7-26**]  11:50 AM
                             [**2136-7-26**]  02:38 PM
                             [**2136-7-26**]  02:48 PM
                             [**2136-7-26**]  10:55 PM
                             [**2136-7-26**]  11:12 PM
                             [**2136-7-27**]  04:08 AM
                             [**2136-7-27**]  04:33 AM
   WBC
   11.0
   7.6
   5.8
   Hct
   33.2
   32.3
   32.9
   34
   30.2
   30.0
   Plt
   98
   78
   77
   Cr
   0.7
   0.7
   TCO2
   20
   20
   20
   21
   21
   Glucose
   100
   95
   Other labs: PT / PTT / INR:14.9/34.5/1.3, ALT / AST:35/59, Alk Phos / T
   Bili:74/2.5, Lactic Acid:1.3 mmol/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Assessment and Plan: This is a 54 yo f with h/o Hepatitis C infection
   and cirrohsis presenting with UGIB.
   # UGIB - s/p EGD which showed no varices, but multiple ulcers and s/p
   clipping of ulceration with clot in lesser curvature of fundus.
   Findings more consistent with NSAID-induced vs H Pylori PUD.  Pt with
   recent history of motrin use per family though dosage uncertain.
   - lactulose, PPI, abx per hepatology
   - monitor Hct closely, transfuse to Hct of 30.
   - s/p FFP given for INR 1.5
   - IVF and pressors PRN to keep MAP >65.
   -Attempt to wean pressors today, fluid bolus to assess response.
   -If not off pressors later today will place central line.
   .
   #  Respiratory failure - Patient intubated for airway protection in the
   setting of hemetemsis and AMS.  Pt with large aspiration of blood
   during intubation.  no CXR prior to intubation so unclear if
   infiltrates r/t to observed aspiration vs previous aspiration/evolving
   PNA.  Yesterday she had significant bright red blood on suctioning from
   ETT - bronch directly afterward showed blood in right bronchus, but no
   clear source of bleeding, no obvious active bleeding.  Spiked fevers
   later in the day.
   -continuing antibiotics
   - wean vent as able, try psv today. f/u ABGs
   - ipratropium and albuterol MDIs, hold advair for now
   .
   # Fevers - patient with fevers over the last 2 days.  unclear etiology
   at this time.  Patient most likely has an aspiration PNA/pneumonitis.
   - fevers could likely be result of aspirated blood - infection also
   possible, but cultures pending.  Continue abx for now.  Vanco,
   ceftriaxone, Flagyl.
   - blood, sputum and urine cx.
   .
   # Hepatitis C treatment
 re-start ribavirin.
   .
   # Depression/anxiety
 re-start sertraline.
   .
   # FEN: IVF bolus PRN, replete electrolytes, nutrition consult, start
   tube feeds slowly.
   .
   # Prophylaxis: pneumoboots, PPI ggt, mouth care, HOB elevation
   .
   # Access: 4 PIVs for now
 will place central line today if still on
   pressors.
   .
   # Code: FULL discussed with HCP, husband [**Name (NI) 174**]
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-7-25**] 04:50 PM
   20 Gauge - [**2136-7-25**] 04:50 PM
   Arterial Line - [**2136-7-25**] 08:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2136-07-27 11:56:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Blood Loss Anemia, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Did not tolerate PSV trial yesterday - but now on PSV 8/8
   Bronch yesterday showed red blood through R-sided airways but no
   distinct source
   24 Hour Events:
 SPUTUM CULTURE - At [**2136-7-26**] 08:35 AM
 BRONCHOSCOPY - At [**2136-7-26**] 03:00 PM
 BLOOD CULTURED - At [**2136-7-26**] 03:35 PM
 BAL FLUID CULTURE - At [**2136-7-26**] 03:35 PM
 FEVER - 103.5
F - [**2136-7-26**] 04:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-7-26**] 08:29 PM
   Vancomycin - [**2136-7-27**] 08:00 AM
   Metronidazole - [**2136-7-27**] 10:12 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2136-7-26**] 03:00 PM
   Fentanyl - [**2136-7-26**] 03:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-7-27**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 37.7
C (99.9
   HR: 77 (66 - 97) bpm
   BP: 102/48(69) {89/48(66) - 158/88(115)} mmHg
   RR: 12 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,276 mL
                                                                    820 mL
   PO:
             TF:
   IVF:
                                                                  3,762 mL
                                                                    750 mL
   Blood products:
                                                                    514 mL
   Total out:
                                                                  1,450 mL
                                                                    535 mL
   Urine:
                                                                  1,395 mL
                                                                    535 mL
   NG:
                                                                     55 mL
   Stool:
   Drains:
   Balance:
                                                                  2,826 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 634 (311 - 662) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Unstable Spine
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.32/39/91.[**Numeric Identifier 253**]/20/-5
   Ve: 6.8 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R > L)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   77 K/uL
   95 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.8 mEq/L
   24 mg/dL
   117 mEq/L
   143 mEq/L
   30.0 %
   5.8 K/uL
        [image002.jpg]
                             [**2136-7-26**]  04:12 AM
                             [**2136-7-26**]  04:35 AM
                             [**2136-7-26**]  11:32 AM
                             [**2136-7-26**]  11:50 AM
                             [**2136-7-26**]  02:38 PM
                             [**2136-7-26**]  02:48 PM
                             [**2136-7-26**]  10:55 PM
                             [**2136-7-26**]  11:12 PM
                             [**2136-7-27**]  04:08 AM
                             [**2136-7-27**]  04:33 AM
   WBC
   11.0
   7.6
   5.8
   Hct
   33.2
   32.3
   32.9
   34
   30.2
   30.0
   Plt
   98
   78
   77
   Cr
   0.7
   0.7
   TCO2
   20
   20
   20
   21
   21
   Glucose
   100
   95
   Other labs: PT / PTT / INR:14.9/34.5/1.3, ALT / AST:35/59, Alk Phos / T
   Bili:74/2.5, Lactic Acid:1.3 mmol/L, Ca++:7.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.0 mg/dL
   Imaging: CXR: slight clearing at right apex
   Assessment and Plan
   54 yo woman with Hep C/cirrhosis, upper GI blled, blood loss anemia
   1. GI Bleed: s/p EGD with clipping of gastric ulcer.  INR 1.3.  Cont to
   trend Hct - currently 30.
   2. Respiratory Failure:  Now on PSV 8/8 --> will try to lighten
   sedation.  Perhaps some improvment in R lung opacity
   3. Hypotension: Will try fluid bolus to see how
   4. Hemoptysis: Suspect some component of alveolar bleeding related to
   her large aspiration event
   Remainder of issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: Will consult nutrition and try to start slow tube feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-7-25**] 04:50 PM
   20 Gauge - [**2136-7-25**] 04:50 PM
   Arterial Line - [**2136-7-25**] 08:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2136-07-28 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2136-7-27**] 03:30 PM
 BRONCHOSCOPY - At [**2136-7-27**] 04:00 PM
 MULTI LUMEN - START [**2136-7-27**] 07:00 PM
 FEVER - 101.8
F - [**2136-7-27**] 12:00 PM
   -bleeding from apical segment of RUL on bronch by IP
   -CT Chest:Almost complete consolidation of the right upper lobe.
   Widespread patchy opacities throughout both lungs, right worse than
   left, is consistent with pulmonary hemorrhage given history.
   Concomitant underlying aspiration and infectious etiologies cannot be
   excluded
   -DC'd ceft and added cefepime/cipro for enhanced coverage
   -central line placed, XR shows in good position
   -weaned off pressors early this morning
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-7-26**] 08:29 PM
   Vancomycin - [**2136-7-27**] 08:00 PM
   Ciprofloxacin - [**2136-7-27**] 09:48 PM
   Cefipime - [**2136-7-27**] 10:27 PM
   Metronidazole - [**2136-7-28**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Phenylephrine - 0.6 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-28**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.5
C (97.7
   HR: 68 (68 - 105) bpm
   BP: 101/56(75) {79/43(61) - 130/89(102)} mmHg
   RR: 10 (9 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (13 - 13)mmHg
   Total In:
                                                                  3,680 mL
                                                                    422 mL
   PO:
   TF:
   IVF:
                                                                  3,420 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    580 mL
   Urine:
                                                                  1,375 mL
                                                                    520 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                  2,305 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 612 (462 - 634) mL
   PS : 8 cmH2O
   RR (Spontaneous): 13
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.39/43/87.[**Numeric Identifier 7**]/21/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 176
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   9.0 g/dL
   113 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.0 mEq/L
   17 mg/dL
   119 mEq/L
   145 mEq/L
   28.2 %
   6.2 K/uL
        [image002.jpg]
                             [**2136-7-26**]  11:12 PM
                             [**2136-7-27**]  04:08 AM
                             [**2136-7-27**]  04:33 AM
                             [**2136-7-27**]  12:15 PM
                             [**2136-7-27**]  03:27 PM
                             [**2136-7-27**]  07:07 PM
                             [**2136-7-27**]  07:50 PM
                             [**2136-7-28**]  12:07 AM
                             [**2136-7-28**]  01:10 AM
                             [**2136-7-28**]  03:04 AM
   WBC
   5.8
   6.2
   Hct
   30.0
   28.8
   28.8
   31
   24
   28.3
   28.2
   Plt
   77
   87
   Cr
   0.7
   0.7
   TCO2
   21
   21
   19
   21
   27
   Glucose
   95
   94
   113
   Other labs: PT / PTT / INR:15.9/35.2/1.4, ALT / AST:35/59, Alk Phos / T
   Bili:74/2.5, Fibrinogen:395 mg/dL, Lactic Acid:1.5 mmol/L, Ca++:7.3
   mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Assessment and Plan: This is a 54 yo f with h/o Hepatitis C infection
   and cirrohsis presenting with UGIB.
   .
   #  Respiratory failure - Patient intubated for airway protection in the
   setting of hemetemsis and AMS.  Pt with large aspiration of blood
   during intubation.  no CXR prior to intubation so unclear if
   infiltrates r/t to observed aspiration vs previous aspiration/evolving
   PNA.  Yesterday she had significant bright red blood on suctioning from
   ETT
 bronch showed fresh blood originating from apical segment of RUL,
   but no visible source.  CT showed massive consolidation, but no clear
   source which would be treatable with IR embolization..  Continued to
   have bright red blood from ET suctioning, small quantities.
   -went for CT
 findings as above.
   -continuing antibiotics, DC Flagyl.
   - ABG's stable, but concern for possible developing ARDS
   -lung protective ventilation strategies.
   - ipratropium and albuterol MDIs, hold advair for now
   -check hematocrit Q8 today.
   -follow up cultures.
   # UGIB - s/p EGD which showed no varices, but multiple ulcers and s/p
   clipping of ulceration with clot in lesser curvature of fundus.
   Findings more consistent with NSAID-induced vs H Pylori PUD.  Pt with
   recent history of motrin use per family though dosage uncertain.
   - lactulose, PPI, abx per hepatology - now with good stool output.
   - monitor Hct closely, has been stable.
   - s/p FFP given for INR 1.5
   - IVF and pressors PRN to keep MAP >65.
   -weaned off pressors yesterday.
   -central line placed yesterday evening.
   .
   # Hepatitis C treatment
 on  ribavirin.
   .
   # Depression/anxiety
 on sertraline.
   .
   # FEN: IVF bolus PRN, replete electrolytes, nutrition consult
   yesterday, planned to start TF slowly, but now holding in setting of
   continued hemoptysis and very high residuals.
   .
   # Prophylaxis: pneumoboots, PPI ggt, mouth care, HOB elevation
   .
   # Access: now with central line, A-line not functioning well
 consider
   replacing if necessary.  Still useful for ABG
   .
   # Code: FULL discussed with HCP, sister
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-7-25**] 04:50 PM
   Arterial Line - [**2136-7-25**] 08:09 PM
   Multi Lumen - [**2136-7-27**] 07:00 PM
   20 Gauge - [**2136-7-27**] 07:47 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Hemoptysis has slowed down and HCt is stable. Her oxygen needs are also
   stable on CPAP/ PSV. Chest CT shows severe ASD in left lung too with
   dense consolidation in the RUL but clearing infiltrates in the RLL.
   There are no pleural effusions. She needs ARDS net Ventilation strategy
   and broad antibiotics for now. She will need sedation to prevent
   ventilator dys-synchrony. If she should develop massive hemoptyis, IR
   guided embolization may be needed. Vasculitis serology pending
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2136-7-28**] 18:40 ------

2136-07-29 07:33:00 Physician Resident Progress Note
Chief Complaint: 54 yo f with h/o Hep C cirrohsis on inferon presents
   after 2 days days of vomiting blood likely [**12-26**] PUD, intubated for
   airway protection but had difficult intubation and now c bleeding in
   LUL ? [**12-26**] trauma versus aspiration pna versus both
   24 Hour Events:
   -Hct stable (transfusion threshold is 25)
   -PPI drip changed to PPI [**Hospital1 **]
   -changed from pressure support to assist control for ?ARDS picture
   -lost a line
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2136-7-26**] 08:29 PM
   Metronidazole - [**2136-7-28**] 10:27 AM
   Vancomycin - [**2136-7-28**] 08:32 PM
   Ciprofloxacin - [**2136-7-28**] 10:33 PM
   Cefipime - [**2136-7-28**] 11:44 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 60 mcg/hour
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-29**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 84 (74 - 97) bpm
   BP: 88/54(62) {82/50(57) - 135/73(82)} mmHg
   RR: 8 (8 - 16) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 286 (6 - 286)mmHg
   Total In:
                                                                  1,924 mL
                                                                    265 mL
   PO:
   TF:
   IVF:
                                                                  1,764 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    325 mL
   Urine:
                                                                  1,475 mL
                                                                    325 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                    389 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   Vt (Spontaneous): 570 (570 - 644) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 30 cmH2O
   Plateau: 22 cmH2O
   Compliance: 37.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/38/148/23/-3
   Ve: 7.9 L/min
   PaO2 / FiO2: 370
   Physical Examination
   Gen: sedated
   Cv: rrr
   Resp: bronchial breath sounds in LUL
   Abd: soft, +BS
   Ext warm
   Labs / Radiology
   82 K/uL
   8.3 g/dL
   114 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   120 mEq/L
   148 mEq/L
   27.5 %
   4.0 K/uL
        [image002.jpg]
                             [**2136-7-27**]  07:50 PM
                             [**2136-7-28**]  12:07 AM
                             [**2136-7-28**]  01:10 AM
                             [**2136-7-28**]  03:04 AM
                             [**2136-7-28**]  10:41 AM
                             [**2136-7-28**]  11:45 AM
                             [**2136-7-28**]  01:53 PM
                             [**2136-7-28**]  02:16 PM
                             [**2136-7-28**]  06:58 PM
                             [**2136-7-29**]  05:00 AM
   WBC
   6.2
   4.0
   Hct
   31
   24
   28.3
   28.2
   26.5
   26.8
   27.0
   27.5
   Plt
   87
   71
   82
   Cr
   0.7
   0.6
   TCO2
   21
   27
   23
   22
   Glucose
   94
   113
   114
   Other labs: PT / PTT / INR:16.0/32.9/1.4, ALT / AST:35/59, Alk Phos / T
   Bili:74/2.5, Fibrinogen:395 mg/dL, Lactic Acid:1.5 mmol/L, Ca++:7.5
   mg/dL, Mg++:2.5 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Assessment and Plan: This is a 54 yo f with h/o Hepatitis C infection
   and cirrohsis presenting with UGIB.
   .
   #  Respiratory failure - Patient intubated for airway protection in the
   setting of hemetemsis and AMS.  Pt with large aspiration of blood
   during intubation.  no CXR prior to intubation so unclear if
   infiltrates r/t to observed aspiration vs previous aspiration/evolving
   PNA.  Yesterday she had significant bright red blood on suctioning from
   ETT
 bronch showed fresh blood originating from apical segment of RUL,
   but no visible source.  CT showed massive consolidation, but no clear
   source which would be treatable with IR embolization.
   -continuing antibiotics for aspiration pna, d/c cipro and add azithro
   out of concern for comm. Acq pna
   -ardsnet vent protocol, will consider psv tomorrow
   - ipratropium and albuterol MDIs, hold advair for now
   -check hematocrit [**Hospital1 **] today.
   -blood cx pending, sputum cx neg
   -f/u anca, [**Doctor First Name **], antigbm antibodies
   .
   # UGIB - s/p EGD which showed no varices, but multiple ulcers and s/p
   clipping of ulceration with clot in lesser curvature of fundus.
   Findings more consistent with NSAID-induced vs H Pylori PUD.  Pt with
   recent history of motrin use per family though dosage uncertain.
   - lactulose, PPI, abx per hepatology - now with good stool output.
   - monitor Hct closely, has been stable. follow INR and give FFP prn
   - IVF and pressors PRN to keep MAP >65.
   -hpylori neg
   .
   # Hepatitis C treatment
 on  ribavirin.
   .
   # Depression/anxiety
 on sertraline.
   .
   # ?enlarged heart: check TTE
   .
   # hypernatremia; increase free water c tube feeds
   # FEN: IVF bolus PRN, replete electrolytes, nutrition consult
   yesterday, planned to start TF slowly, but now holding in setting of
   continued hemoptysis and very high residuals.
   .
   # Prophylaxis: pneumoboots, PPI ggt, mouth care, HOB elevation
   .
   # Access: now with central line, lost a line.
   .
   # Code: FULL discussed with HCP, sister
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-7-25**] 04:50 PM
   Arterial Line - [**2136-7-25**] 08:09 PM
   Multi Lumen - [**2136-7-27**] 07:00 PM
   20 Gauge - [**2136-7-27**] 07:47 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   She remains heavily sedated on current settings ( ARDSNet) with slowly
   resolving ASD in both lower lung fields but persistent dense
   consolidation in RUL ( source of hemoptysis). We will add coverage for
   legionella with azithromycin/ levaquin for now and await sputum
   cultures too. If saturations remain stable over the next 24 hours, we
   may lighten sedation to allow CPAP/ PSV transition again as lung
   compliance is not severly decreased.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2136-7-29**] 14:58 ------

2136-07-30 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2136-7-29**] 12:12 PM
 BLOOD CULTURED - At [**2136-7-30**] 05:37 AM
   -[**Doctor First Name **]/anca/antigbm pending
   -UA neg, Sp gram stain unremarkable, cultures pending
   -legionella urine antigen pending
   -decided not to replace aline as felt pt did not require
   -liver:  started reglan yesterday for high residuals. liver recs:
   increase reglan if inc residuals
   -afternoon abg/lytes good
   -TTE not done (prob [**12-26**] long wknd)
   -spiked to 101s. sent blood cx this am.
   -hypernatremic increased free water in tube feeds to 350cc q4h
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2136-7-28**] 10:27 AM
   Cefipime - [**2136-7-28**] 11:44 PM
   Ciprofloxacin - [**2136-7-29**] 12:06 PM
   Vancomycin - [**2136-7-29**] 09:46 PM
   Ceftazidime - [**2136-7-30**] 12:18 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 60 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-7-29**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-30**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 98 (79 - 105) bpm
   BP: 122/62(76) {89/51(60) - 145/73(89)} mmHg
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (4 - 17)mmHg
   Total In:
                                                                  1,863 mL
                                                                    259 mL
   PO:
   TF:
                                                                    199 mL
                                                                    126 mL
   IVF:
                                                                  1,014 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    420 mL
   Urine:
                                                                  1,025 mL
                                                                    420 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -162 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 98%
   ABG: ///22/
   Ve: 8.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   96 K/uL
   8.1 g/dL
   123 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.7 mEq/L
   21 mg/dL
   122 mEq/L
   151 mEq/L
   26.3 %
   3.4 K/uL
        [image002.jpg]
                             [**2136-7-28**]  01:10 AM
                             [**2136-7-28**]  03:04 AM
                             [**2136-7-28**]  10:41 AM
                             [**2136-7-28**]  11:45 AM
                             [**2136-7-28**]  01:53 PM
                             [**2136-7-28**]  02:16 PM
                             [**2136-7-28**]  06:58 PM
                             [**2136-7-29**]  05:00 AM
                             [**2136-7-29**]  02:48 PM
                             [**2136-7-30**]  04:58 AM
   WBC
   6.2
   4.0
   3.4
   Hct
   28.3
   28.2
   26.5
   26.8
   27.0
   27.5
   26.7
   26.3
   Plt
   87
   71
   82
   96
   Cr
   0.7
   0.6
   0.7
   0.6
   TCO2
   23
   22
   Glucose
   113
   114
   109
   123
   Other labs: PT / PTT / INR:16.4/29.6/1.5, ALT / AST:35/59, Alk Phos / T
   Bili:74/2.5, Fibrinogen:395 mg/dL, Lactic Acid:1.4 mmol/L, Ca++:7.3
   mg/dL, Mg++:2.6 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   .
   Assessment and Plan: This is a 54 yo f with h/o Hepatitis C infection
   and cirrohsis presenting with UGIB.
   .
   #  Respiratory failure - Patient intubated for airway protection in the
   setting of hemetemsis and AMS.  Pt with large aspiration of blood
   during intubation.  no CXR prior to intubation so unclear if
   infiltrates r/t to observed aspiration vs previous aspiration/evolving
   PNA.  She had significant bright red blood on suctioning from ETT
   several days ago
 bronch showed fresh blood originating from apical
   segment of RUL, but no visible source.  Bleeding now resolved.  Likely
   she has a community acquired LUL pna in addition to injury from
   aspirating blood
   -continuing antibiotics for aspiration pna (vanc, azithro (day 2),
   cefepime), d/ced cipro yesterday
   -ardsnet vent protocol, will lighten sedation and try transition to psv
   today
   - ipratropium and albuterol MDIs, holding advair for now.
   -blood cx pending, sputum cx neg
   -f/u anca, [**Doctor First Name **], anti-gbm antibodies
   .
   #fevers has had low grade fevers since admission. Spiked to 102 this
   am.
   -RUQ Doppler today, evaluate for thrombosis
   -send urine eos
   -sputum culture, possibly DC vanc if negative for GPC
   -fungal cultures sent
   -check beta glucan, galactomannan
   .
   # UGIB - s/p EGD which showed no varices, but multiple ulcers and s/p
   clipping of ulceration with clot in lesser curvature of fundus.
   Findings more consistent with NSAID-induced vs H Pylori PUD.  Pt with
   recent history of motrin use per family though dosage uncertain.
   - lactulose, PPI, abx per hepatology - now with good stool output.
   - monitor Hct daily, or more frequently if bleeding, has been stable.
   -follow INR (runs 1.2-1.5) and give FFP prn
   - IVF and pressors PRN to keep MAP >65 (no pressors currently)
   -h pylori neg
   -keep active type and screen
   .
   # Hepatitis C treatment
 on  ribavirin.
   .
   # Depression/anxiety
 on sertraline.
   .
   # ?enlarged heart: check TTE
   .
   # hypernatremia; increase free water c tube feeds to 350 q4h this am
   (from 250q4h yesterday)
   -pm electrolytes
   # FEN: IVF bolus PRN, replete electrolytes. Continue tube feeds
   increasing towards goal, continue reglan.
   .
   # Prophylaxis: pneumoboots, PPI ggt, mouth care, HOB elevation
   .
   # Access: now with central line, lost a line.
   .
   # Code: FULL discussed with HCP, sister
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2136-7-29**] 12:06 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-7-25**] 04:50 PM
   Multi Lumen - [**2136-7-27**] 07:00 PM
   20 Gauge - [**2136-7-27**] 07:47 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 8737**] has had decreasing O2 needs and some improvement in CXR too
   with the exception of her RUL. Legionella serology is pending. She has
   had no further hemoptysis. We will transition to CPAP/ PSV if her
   current level of sedation allows this. We will also optimize
   nutritional goals with enteral feeds. Fevers on current regimen is
   worrisome but WBC has trended down and there is no rash. We will d/w
   hepatology staff any further recs.
   Patient is critically ill
   Total time: 40 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2136-7-30**] 14:44 ------

2136-07-31 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2136-7-30**] 11:15 AM
   liver
 FEVER - 102.3
F - [**2136-7-30**] 11:00 AM
   -stopped ribavirin, sent C3/C4 per hepatology
   -off sedation since 9 am this morning, pressures and HR stable, but not
   waking up.
   -trial of PSV done - apneic, so back on AC.
   -persistently high residuals, so unable to give free water flushes as
   per plan.  500 D5W given, sodium decreased in PM from 151 to 147.
   -further 1L D5W given in evening with K phos repletionl maintenance D5,
   1/2NS
   -no TTE today
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2136-7-28**] 10:27 AM
   Ciprofloxacin - [**2136-7-29**] 12:06 PM
   Ceftazidime - [**2136-7-30**] 12:18 AM
   Vancomycin - [**2136-7-30**] 07:58 PM
   Cefipime - [**2136-7-31**] 12:39 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-7-30**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-7-31**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.6
C (99.6
   HR: 88 (81 - 107) bpm
   BP: 137/72(85) {93/54(64) - 176/104(123)} mmHg
   RR: 12 (0 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (5 - 13)mmHg
   Total In:
                                                                  2,296 mL
                                                                  1,029 mL
   PO:
   TF:
                                                                    304 mL
                                                                    179 mL
   IVF:
                                                                  1,872 mL
                                                                    850 mL
   Blood products:
   Total out:
                                                                  2,247 mL
                                                                    280 mL
   Urine:
                                                                  1,347 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     49 mL
                                                                    749 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   Compliance: 37.9 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: bronchial breath sounds throughout R lung field
   and left lower lung field
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   70 K/uL
   7.9 g/dL
   171 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   20 mg/dL
   118 mEq/L
   145 mEq/L
   25.3 %
   2.8 K/uL
        [image002.jpg]
                             [**2136-7-28**]  10:41 AM
                             [**2136-7-28**]  11:45 AM
                             [**2136-7-28**]  01:53 PM
                             [**2136-7-28**]  02:16 PM
                             [**2136-7-28**]  06:58 PM
                             [**2136-7-29**]  05:00 AM
                             [**2136-7-29**]  02:48 PM
                             [**2136-7-30**]  04:58 AM
                             [**2136-7-30**]  06:00 PM
                             [**2136-7-31**]  03:13 AM
   WBC
   4.0
   3.4
   2.8
   Hct
   26.5
   26.8
   27.0
   27.5
   26.7
   26.3
   25.3
   Plt
   71
   82
   96
   70
   Cr
   0.6
   0.7
   0.6
   0.7
   0.5
   TCO2
   23
   22
   Glucose
   114
   109
   123
   122
   171
   Other labs: PT / PTT / INR:16.9/30.5/1.5, ALT / AST:35/59, Alk Phos / T
   Bili:74/2.5, Fibrinogen:395 mg/dL, Lactic Acid:1.4 mmol/L, Ca++:7.4
   mg/dL, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Imaging: ABD U/S
   IMPRESSION:
   1. Coarsened hepatic echotexture with a nodular contour, compatible
   with
   provided history of cirrhosis. No focal lesions identified.
   2. Patent portal venous system, with directionally appropriate flow.
   3. No evidence of ascites.
   CXR
   The endotracheal tube, NG tube, and right IJ line are unchanged.
   Again seen is an alveolar infiltrate in the right lung most marked in
   the
   right upper lobe but also present in the right lower lobe medially.
   There is
   relative sparing of the left lung but there are some areas of patchy
   alveolar infiltrate there as well. Compared to the study from the prior
   day the right infiltrate is slightly worse and the left infiltrate is
   slightly better.
   Microbiology: [**2136-7-31**]  MRSA SCREEN MRSA SCREEN-PENDING INPATIENT
   [**2136-7-30**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PENDING; BLOOD/AFB CULTURE-PENDING INPATIENT
   [**2136-7-30**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY;
   LEGIONELLA CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY; ACID FAST
   SMEAR-PRELIMINARY; ACID FAST CULTURE-PRELIMINARY INPATIENT
   [**2136-7-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2136-7-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2136-7-29**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2136-7-29**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2136-7-29**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   {YEAST} INPATIENT
   [**2136-7-29**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2136-7-26**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2136-7-26**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-FINAL INPATIENT
   [**2136-7-26**]  SEROLOGY/BLOOD HELICOBACTER PYLORI ANTIBODY TEST-FINAL
   INPATIENT
   [**2136-7-26**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST}
   INPATIENT
   [**2136-7-26**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2136-7-26**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2136-7-25**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   Assessment and Plan: This is a 54 yo f with h/o Hepatitis C infection
   and cirrohsis presenting with UGIB.
   .
   #  Respiratory failure - Patient intubated for airway protection in the
   setting of hemetemsis and AMS.  Pt with large aspiration of blood
   during intubation.  no CXR prior to intubation so unclear if
   infiltrates r/t to observed aspiration vs previous aspiration/evolving
   PNA.  She had significant bright red blood on suctioning from ETT
   several days ago
 bronch showed fresh blood originating from apical
   segment of RUL, but no visible source.  Bleeding now resolved.  Likely
   she has a community acquired LUL pna in addition to injury from
   aspirating blood
   -continuing antibiotics for aspiration pna (azithro (day 3), cefepime),
   d/ced vanco today
   -ardsnet vent protocol, will lighten sedation and try transition to psv
   today
   - ipratropium and albuterol MDIs, holding advair for now.
   -blood cx pending, sputum cx neg, fungal cultures pending
   -f/u anca, [**Doctor First Name **], anti-gbm, C3/C4 antibodies for ?vasculitis
   .
   #fevers - has had low grade fevers since admission. Spiked to [**Age over 90 **]
   yesterday AM; also has decreasing white counts, though that seems to
   have been her baseline prior to admission.
   -RUQ Doppler showed no evidence of ascites or PVT
   -send urine eos
   -DC vancomycin today
 no GPC
s on sputum cultures to date.
   -fungal cultures sent
   -f/u  beta glucan, galactomannan
   -d/c ribavirin (can cause fevers)
   .
   # UGIB - s/p EGD which showed no varices, but multiple ulcers and s/p
   clipping of ulceration with clot in lesser curvature of fundus.
   Findings more consistent with NSAID-induced vs H Pylori PUD.  Pt with
   recent history of motrin use per family though dosage uncertain.
   -guaiac stool today.
   - lactulose, PPI, abx per hepatology - now with good stool output.
   - monitor Hct daily, or more frequently if bleeding, has been stable.
   Hct 25.3, dropped 1 point. Will get PM crit
   -follow INR (runs 1.2-1.5) and give FFP prn
   - IVF and pressors PRN to keep MAP >65 (no pressors currently)
   -h pylori neg
   -keep active type and screen
   .
   # Hepatitis C treatment
 off ribaviron; f/u hepatology recs.
   .
   # Depression/anxiety
 on sertraline.
   .
   # ?enlarged heart: check TTE
   .
   # hypernatremia; decreased with D5W bolus and maintenance fluid
   -pm electrolytes
   # FEN: IVF bolus PRN, replete electrolytes. Continue tube feeds
   increasing towards goal, continue reglan.
   -keep fluid even for today.
   .
   # Prophylaxis: pneumoboots, PPI ggt, mouth care, HOB elevation
   .
   # Access: now with central line, lost a line.
   .
   # Code: FULL discussed with HCP, sister
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2136-7-29**] 12:06 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-7-30**] 12:00 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:  family updated yesterday
   Code status: Full code
   Disposition:  ICU

2136-07-31 10:17:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Rspiratory Failure, Hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Sedation weaned, still apneic this AM on trial of PSV
   24 Hour Events:
 ULTRASOUND - At [**2136-7-30**] 11:15 AM
   liver
 FEVER - 102.3
F - [**2136-7-30**] 11:00 AM
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Metronidazole - [**2136-7-28**] 10:27 AM
   Ciprofloxacin - [**2136-7-29**] 12:06 PM
   Ceftazidime - [**2136-7-30**] 12:18 AM
   Cefipime - [**2136-7-31**] 12:39 AM
   Vancomycin - [**2136-7-31**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-7-31**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.8
C (100.1
   HR: 93 (81 - 107) bpm
   BP: 148/67(87) {93/54(64) - 176/104(123)} mmHg
   RR: 18 (0 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (5 - 13)mmHg
   Total In:
                                                                  2,296 mL
                                                                  1,720 mL
   PO:
   TF:
                                                                    304 mL
                                                                    280 mL
   IVF:
                                                                  1,872 mL
                                                                  1,440 mL
   Blood products:
   Total out:
                                                                  2,247 mL
                                                                    380 mL
   Urine:
                                                                  1,347 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     49 mL
                                                                  1,340 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 110
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 37.9 cmH2O/mL
   SpO2: 99%
   ABG: ///22/
   Ve: 8.6 L/min
   Physical Examination
   General Appearance: No acute distress, intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   throughout R anteriorly, Rhonchorous: scattered b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   70 K/uL
   171 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.4 mEq/L
   20 mg/dL
   118 mEq/L
   145 mEq/L
   25.3 %
   2.8 K/uL
        [image002.jpg]
                             [**2136-7-28**]  10:41 AM
                             [**2136-7-28**]  11:45 AM
                             [**2136-7-28**]  01:53 PM
                             [**2136-7-28**]  02:16 PM
                             [**2136-7-28**]  06:58 PM
                             [**2136-7-29**]  05:00 AM
                             [**2136-7-29**]  02:48 PM
                             [**2136-7-30**]  04:58 AM
                             [**2136-7-30**]  06:00 PM
                             [**2136-7-31**]  03:13 AM
   WBC
   4.0
   3.4
   2.8
   Hct
   26.5
   26.8
   27.0
   27.5
   26.7
   26.3
   25.3
   Plt
   71
   82
   96
   70
   Cr
   0.6
   0.7
   0.6
   0.7
   0.5
   TCO2
   23
   22
   Glucose
   114
   109
   123
   122
   171
   Other labs: PT / PTT / INR:16.9/30.5/1.5, ALT / AST:35/59, Alk Phos / T
   Bili:74/2.5, Fibrinogen:395 mg/dL, Lactic Acid:1.4 mmol/L, Ca++:7.4
   mg/dL, Mg++:2.6 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Assessment and Plan: This is a 54 yo f with h/o Hepatitis C infection
   and cirrohsis presenting with UGIB.
   #  Respiratory failure: Still with some bloody secretions.  On
   vanc/azithro/cefepime. Will D/C vanc.  Continues to spike.  Awaiting
   vasculitis workup.  Will try to transition to PSV if she wakes up some
   more.
   # Fevers: Due to ongoing bleeding/vasculitis vs. VAP vs. as yet
   unidenified occult infection vs. drug?  Cont on abx as above.  RUQ u/s
   neg for ascites.  Ribavirin D/C'd.
   # UGIB: Hct stable.  Off Hep C rx for now
   # HyperNa: recheck Na
   Remainder of issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2136-7-29**] 12:06 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-7-30**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2136-08-01 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2136-7-31**] 08:00 PM
   -TTE done yesterday, hyperdynamic to EF>75%
   -Changed from AC to pressure support with stable gas
      -more details -
   -sent C3, C4 to evaluate for cryo, normal
   -dc'ed vanco
   -still febrile; drew cultures
   -at 10pm, still 1.5 L positive (goal even), gave 10mg IV lasix
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2136-7-29**] 12:06 PM
   Ceftazidime - [**2136-7-30**] 12:18 AM
   Vancomycin - [**2136-7-31**] 08:00 AM
   Azithromycin - [**2136-7-31**] 04:00 PM
   Cefipime - [**2136-8-1**] 12:34 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-7-31**] 09:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-8-1**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.1
C (97
   HR: 113 (86 - 126) bpm
   BP: 174/89(108) {96/61(73) - 230/96(129)} mmHg
   RR: 25 (0 - 37) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 0 (-1 - 15)mmHg
   Total In:
                                                                  2,650 mL
                                                                    955 mL
   PO:
   TF:
                                                                    700 mL
                                                                    204 mL
   IVF:
                                                                  1,550 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                  1,405 mL
   Urine:
                                                                  1,185 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,465 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 530) mL
   Vt (Spontaneous): 445 (438 - 583) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 104
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.40/38/107/25/0
   Ve: 11.1 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   92 K/uL
   7.7 g/dL
   131 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   22 mg/dL
   120 mEq/L
   148 mEq/L
   25.1 %
   3.6 K/uL
        [image002.jpg]
                             [**2136-7-28**]  06:58 PM
                             [**2136-7-29**]  05:00 AM
                             [**2136-7-29**]  02:48 PM
                             [**2136-7-30**]  04:58 AM
                             [**2136-7-30**]  06:00 PM
                             [**2136-7-31**]  03:13 AM
                             [**2136-7-31**]  03:12 PM
                             [**2136-7-31**]  05:04 PM
                             [**2136-7-31**]  11:38 PM
                             [**2136-8-1**]  02:53 AM
   WBC
   4.0
   3.4
   2.8
   3.6
   Hct
   27.0
   27.5
   26.7
   26.3
   25.3
   28.2
   25.1
   Plt
   82
   96
   70
   92
   Cr
   0.6
   0.7
   0.6
   0.7
   0.5
   0.5
   0.5
   TCO2
   23
   24
   Glucose
   114
   109
   123
   122
   171
   144
   131
   Other labs: PT / PTT / INR:16.0/29.0/1.4, ALT / AST:43/151, Alk Phos /
   T Bili:241/2.0, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:39.0 %,
   Mono:8.0 %, Eos:0.0 %, Fibrinogen:395 mg/dL, Lactic Acid:1.4 mmol/L,
   Ca++:7.6 mg/dL, Mg++:2.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 HYPOTENSION (NOT SHOCK)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   #  Respiratory failure - Patient intubated for airway protection in the
   setting of hemetemsis and AMS.  Pt with large aspiration of blood
   during intubation.  no CXR prior to intubation so unclear if
   infiltrates r/t to observed aspiration vs previous aspiration/evolving
   PNA.  She had significant bright red blood on suctioning from ETT
   several days ago
 bronch showed fresh blood originating from apical
   segment of RUL, but no visible source.  Bleeding now resolved.  Likely
   she has a community acquired LUL pna in addition to injury from
   aspirating blood
   -continuing antibiotics for aspiration pna (azithro (day 3), cefepime),
   d/ced vanco today
       cef day 6, azithro day 3
   -ardsnet vent protocol, will lighten sedation and try transition to psv
   today
   - ipratropium and albuterol MDIs, holding advair for now.
   -blood cx pending, sputum cx neg, fungal cultures pending
   -f/u anca, [**Doctor First Name **], anti-gbm, C3/C4 antibodies for ?vasculitis
   .
   #fevers - has had low grade fevers since admission. Spiked to [**Age over 90 **]
   yesterday AM; also has decreasing white counts, though that seems to
   have been her baseline prior to admission.
   -RUQ Doppler showed no evidence of ascites or PVT
   -send urine eos
   -DC vancomycin today
 no GPC
s on sputum cultures to date.
   -fungal cultures sent
   -f/u  beta glucan, galactomannan
   -d/c ribavirin (can cause fevers)
   .
   # UGIB - s/p EGD which showed no varices, but multiple ulcers and s/p
   clipping of ulceration with clot in lesser curvature of fundus.
   Findings more consistent with NSAID-induced vs H Pylori PUD.  Pt with
   recent history of motrin use per family though dosage uncertain.
   -guaiac stool today.
   - lactulose, PPI, abx per hepatology - now with good stool output.
   - monitor Hct daily, or more frequently if bleeding, has been stable.
   Hct 25.3, dropped 1 point. Will get PM crit
   -follow INR (runs 1.2-1.5) and give FFP prn
   - IVF and pressors PRN to keep MAP >65 (no pressors currently)
   -h pylori neg
   -keep active type and screen
   .
   # Hepatitis C treatment
 off ribaviron; f/u hepatology recs.
   .
   # Depression/anxiety
 on sertraline.
   .
   # ?enlarged heart: check TTE
   .
   # hypernatremia; decreased with D5W bolus and maintenance fluid
   -pm electrolytes
   # FEN: IVF bolus PRN, replete electrolytes. Continue tube feeds
   increasing towards goal, continue reglan.
   -keep fluid even for today.
   .
   # Prophylaxis: pneumoboots, PPI ggt, mouth care, HOB elevation
   .
   # Access: now with central line, lost a line.
   .
   # Code: FULL discussed with HCP, sister
   .
   # Disposition: ICU for now.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2136-7-31**] 05:15 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-7-30**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-08-01 09:32:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Blood Loss Anemia, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Switched to PSV yesterday -> now on 14/5
   TTE with EF >75%, hyperdynamic
   Off of pressors
   24 Hour Events:
 FEVER - 101.1
F - [**2136-7-31**] 08:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2136-7-29**] 12:06 PM
   Ceftazidime - [**2136-7-30**] 12:18 AM
   Vancomycin - [**2136-7-31**] 08:00 AM
   Azithromycin - [**2136-7-31**] 04:00 PM
   Cefipime - [**2136-8-1**] 12:34 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-7-31**] 09:05 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-8-1**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.3
C (99.2
   HR: 101 (86 - 126) bpm
   BP: 162/83(100) {96/61(73) - 230/96(129)} mmHg
   RR: 22 (0 - 37) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 12 (-2 - 15)mmHg
   Total In:
                                                                  2,650 mL
                                                                  1,034 mL
   PO:
   TF:
                                                                    700 mL
                                                                    280 mL
   IVF:
                                                                  1,550 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                  1,185 mL
                                                                  1,505 mL
   Urine:
                                                                  1,185 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,465 mL
                                                                   -471 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 449 (438 - 583) mL
   PS : 14 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 104
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.40/38/107/25/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   R > L, Rhonchorous: R > L)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   92 K/uL
   131 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.5 mEq/L
   22 mg/dL
   120 mEq/L
   148 mEq/L
   25.1 %
   3.6 K/uL
        [image002.jpg]
                             [**2136-7-28**]  06:58 PM
                             [**2136-7-29**]  05:00 AM
                             [**2136-7-29**]  02:48 PM
                             [**2136-7-30**]  04:58 AM
                             [**2136-7-30**]  06:00 PM
                             [**2136-7-31**]  03:13 AM
                             [**2136-7-31**]  03:12 PM
                             [**2136-7-31**]  05:04 PM
                             [**2136-7-31**]  11:38 PM
                             [**2136-8-1**]  02:53 AM
   WBC
   4.0
   3.4
   2.8
   3.6
   Hct
   27.0
   27.5
   26.7
   26.3
   25.3
   28.2
   25.1
   Plt
   82
   96
   70
   92
   Cr
   0.6
   0.7
   0.6
   0.7
   0.5
   0.5
   0.5
   TCO2
   23
   24
   Glucose
   114
   109
   123
   122
   171
   144
   131
   Other labs: PT / PTT / INR:16.0/29.0/1.4, ALT / AST:43/151, Alk Phos /
   T Bili:241/2.0, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:39.0 %,
   Mono:8.0 %, Eos:0.0 %, Fibrinogen:395 mg/dL, Lactic Acid:1.4 mmol/L,
   Ca++:7.6 mg/dL, Mg++:2.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   54 yo f with h/o Hepatitis C infection and cirrohsis presenting with
   UGIB.
   #  Respiratory failure: Ongoing bloody secretions --> tolerating PSV.
   Bloody secretions is the main barrier to extubation at this point
   # Fevers: Continue vanc/azithro/cefepime
   # UGIB: Hct stable.  PPI
   # HyperNa: trending down
   Remainder of issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2136-7-31**] 05:15 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-7-30**] 12:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2136-08-02 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2136-8-1**] 04:05 PM
 ARTERIAL LINE - START [**2136-8-2**] 12:45 AM
   -started insulin ss for elev sugars after starting steroids
   -[**Doctor First Name **] positive at 1:640. ANCA neg.
   -liver thought this might be autoimm hepatitis, so ordered IgG and
   [**Last Name (un) 4223**]. liver also asked for cryo (but this has been sent, still pending)
   -B12/folate wnl
   -d/w family
   -GPCs from blood cx from [**7-30**], still not speciated.
   -re-placed aline
   -apparently even at midnight, however, per nsg, free water flushes not
   recorded for most of the day, so perhaps she has had extra free water
   in.
   -repeat UA dirty but does not look like UTI
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2136-7-31**] 04:00 PM
   Vancomycin - [**2136-8-1**] 08:26 PM
   Cefipime - [**2136-8-2**] 01:21 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-8-2**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 81 (81 - 113) bpm
   BP: 105/53(73) {82/45(60) - 112/60(79)} mmHg
   RR: 11 (11 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (-2 - 12)mmHg
   Total In:
                                                                  2,469 mL
                                                                    982 mL
   PO:
   TF:
                                                                    720 mL
                                                                    208 mL
   IVF:
                                                                    639 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                    985 mL
   Urine:
                                                                  1,365 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      4 mL
                                                                     -3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 536 (449 - 549) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 6 cmH2O
   SpO2: 99%
   ABG: 7.41/41/123/26/1
   Ve: 9.6 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Gen: Sedated, responsive but not entirely appropriate
   CV: regular rate
   Resp: coarse, bronchial breath sounds on R > L; good air movement
   Abd: soft, NTND
   Ext: WWP
   Labs / Radiology
   104 K/uL
   7.8 g/dL
   133 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   25 mg/dL
   120 mEq/L
   147 mEq/L
   25.3 %
   4.2 K/uL
        [image002.jpg]
                             [**2136-7-30**]  06:00 PM
                             [**2136-7-31**]  03:13 AM
                             [**2136-7-31**]  03:12 PM
                             [**2136-7-31**]  05:04 PM
                             [**2136-7-31**]  11:38 PM
                             [**2136-8-1**]  02:53 AM
                             [**2136-8-1**]  02:50 PM
                             [**2136-8-1**]  04:13 PM
                             [**2136-8-1**]  11:54 PM
                             [**2136-8-2**]  03:19 AM
   WBC
   2.8
   3.6
   2.8
   4.2
   Hct
   25.3
   28.2
   25.1
   28.5
   25.3
   Plt
   70
   92
   104
   104
   Cr
   0.7
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   23
   24
   25
   27
   Glucose
   122
   171
   144
   131
   164
   133
   Other labs: PT / PTT / INR:15.3/27.4/1.3, ALT / AST:54/144, Alk Phos /
   T Bili:284/1.5, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:39.0 %,
   Mono:8.0 %, Eos:0.0 %, Fibrinogen:395 mg/dL, Lactic Acid:1.4 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   #  Respiratory failure - Patient intubated for airway protection in the
   setting of hemetemsis and AMS.  Pt with large aspiration of blood
   during intubation, continuing to have bright red blood from ETT
   suctioning
 not massive, but persistent, HCT stable.  Bronch showed
   fresh blood seemingly originating from apical segment of RUL, but no
   source directly visualized.  Likely she has a community acquired LUL
   pna in addition to injury from aspirating blood.
   -continues to require intubation for protection of airway in setting of
   bloody secretions. Will continue frequent suctioning.
   -continuing antibiotics for aspiration pna
 azithro and cefepime (day
   7 and day 4, respectively).  Vanco restarted yesterday for positive
   blood culture. Azithro d/c
ed today (full course).
   -transitioned to PSV yesterday, weaned slightly. Consider extubation
   today or tomorrow
will do bronch to see if secretions have improved.
   - ipratropium and albuterol MDIs, holding advair for now.
   -blood cx pending, sputum cx neg, fungal cultures pending
 no new
   results.
   -C3 low, C4 borderline low, ANCA positive.
   - prednisone 40 daily started empirically for possible vasculitis
   .
   #fevers - has had low grade fevers since admission. 100.4 yesterday
   evening; also has decreasing white counts, though that seems to have
   been her baseline prior to admission.
   -1/2 blood cultures on [**2136-7-30**] growing GPC as of yesterday.  Vanco
   restarted yesterday.
   -RUQ Doppler showed no evidence of ascites or PVT
   -send urine eos
   -continue abx as above.
   -fungal cultures sent - pending
   -f/u  beta glucan, galactomannan
 still pending
   .
   # UGIB - s/p EGD which showed no varices, but multiple ulcers and s/p
   clipping of ulceration with clot in lesser curvature of fundus.
   Findings more consistent with NSAID-induced vs H Pylori PUD.  Pt with
   recent history of motrin use per family though dosage uncertain.
   - lactulose, PPI, abx per hepatology - now with good stool output.
   - monitor Hct daily, or more frequently if bleeding, has been stable.
   Transfusion goal Hct<21.
   -follow INR (runs 1.2-1.5) and give FFP prn
   - IVF and pressors PRN to keep MAP >65 (no pressors currently)
   -h pylori neg
   -keep active type and screen
   .
   # Hepatitis C treatment
 off ribaviron; f/u hepatology recs.
   .
   # Depression/anxiety
 on sertraline.
   .
   # ?enlarged heart: TTE
 hyperdynamic, EF > 75%
   .
   # hypernatremia; Na still high, stable
   - will increase FW with tube feeds
   -pm electrolytes
   .
   # FEN: IVF bolus PRN, replete electrolytes. Continue tube feeds
   increasing towards goal, continue reglan.
   -keep fluid even for today.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2136-8-2**] 02:32 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-7-30**] 12:00 AM
   Arterial Line - [**2136-8-2**] 12:45 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer:  PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2136-08-02 10:26:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ANCA back as negative, [**Doctor First Name **] pos 1:640
   24 Hour Events:
 URINE CULTURE - At [**2136-8-1**] 04:05 PM
 ARTERIAL LINE - START [**2136-8-2**] 12:45 AM
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2136-7-31**] 04:00 PM
   Vancomycin - [**2136-8-1**] 08:26 PM
   Cefipime - [**2136-8-2**] 01:21 AM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-8-2**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 100 (80 - 113) bpm
   BP: 175/82(119) {82/45(60) - 175/82(119)} mmHg
   RR: 17 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.4 kg (admission): 65 kg
   CVP: 6 (1 - 9)mmHg
   Total In:
                                                                  2,469 mL
                                                                  1,094 mL
   PO:
   TF:
                                                                    720 mL
                                                                    308 mL
   IVF:
                                                                    639 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  2,465 mL
                                                                    985 mL
   Urine:
                                                                  1,365 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      4 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 603 (460 - 603) mL
   PS : 8 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.41/41/123/26/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   on right, otherwise clear)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   104 K/uL
   133 mg/dL
   0.5 mg/dL
   26 mEq/L
   3.8 mEq/L
   25 mg/dL
   120 mEq/L
   147 mEq/L
   25.3 %
   4.2 K/uL
        [image002.jpg]
                             [**2136-7-30**]  06:00 PM
                             [**2136-7-31**]  03:13 AM
                             [**2136-7-31**]  03:12 PM
                             [**2136-7-31**]  05:04 PM
                             [**2136-7-31**]  11:38 PM
                             [**2136-8-1**]  02:53 AM
                             [**2136-8-1**]  02:50 PM
                             [**2136-8-1**]  04:13 PM
                             [**2136-8-1**]  11:54 PM
                             [**2136-8-2**]  03:19 AM
   WBC
   2.8
   3.6
   2.8
   4.2
   Hct
   25.3
   28.2
   25.1
   28.5
   25.3
   Plt
   70
   92
   104
   104
   Cr
   0.7
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   23
   24
   25
   27
   Glucose
   122
   171
   144
   131
   164
   133
   Other labs: PT / PTT / INR:15.3/27.4/1.3, ALT / AST:54/144, Alk Phos /
   T Bili:284/1.5, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:39.0 %,
   Mono:8.0 %, Eos:0.0 %, Fibrinogen:395 mg/dL, Lactic Acid:1.4 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.6 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   54 yo f with h/o Hepatitis C infection and cirrohsis presenting with
   UGIB.
   #  Respiratory failure: Bloody secretions improving.  Now on prednisone
   40mg daily.  Will rebronch today.
   # Fevers: Continue vanc/azithro/cefepime
   # UGIB: Hct stable.  PPI
   # HyperNa: improving
   Remainder of issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2136-8-2**] 02:32 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2136-7-30**] 12:00 AM
   Arterial Line - [**2136-8-2**] 12:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2136-08-03 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2136-8-2**] 03:45 PM
   -Pressure support reduced to [**3-27**] - ABG afterward 7.41/42/104
   -bronch performed in afternoon, showed persistent bleeding in R lung,
   but signficantly reduced from that seen on prior bronch.
   -will plan for extubation Friday.
   -spoke with boyfriend [**Name (NI) 174**]
   -1 [**Name2 (NI) 8802**] positive at 8 pm - given 20 mg Lasix.
   -gave 500 cc D5
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2136-7-31**] 04:00 PM
   Vancomycin - [**2136-8-2**] 08:07 PM
   Cefipime - [**2136-8-2**] 10:03 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2136-8-2**] 03:45 PM
   Midazolam (Versed) - [**2136-8-2**] 03:47 PM
   Pantoprazole (Protonix) - [**2136-8-2**] 08:08 PM
   Furosemide (Lasix) - [**2136-8-2**] 11:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-8-3**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 99 (80 - 100) bpm
   BP: 143/70(97) {93/51(68) - 175/82(119)} mmHg
   RR: 48 (9 - 48) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.4 kg (admission): 65 kg
    CVP: 10 (4 - 11)mmHg
   Total In:
                                                                  3,964 mL
                                                                     63 mL
   PO:
   TF:
                                                                    720 mL
                                                                      2 mL
   IVF:
                                                                  1,144 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                  1,410 mL
   Urine:
                                                                  1,385 mL
                                                                  1,410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,829 mL
                                                                 -1,347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 508 (508 - 619) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.41/42/104/28/1
   Ve: 7.1 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Intubated, but very alert, agitated.  Appears uncomfortable, nods when
   asked if short of breath.
   Coarse, symmetric breath sounds bilaterally, with good air movement
   throughout.
   RRR, no audible murmurs.
   Abdomen soft, non-tender, non-distended.
   No pedal edema.
   Labs / Radiology
   123 K/uL
   7.9 g/dL
   96 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   24 mg/dL
   113 mEq/L
   145 mEq/L
   27.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2136-7-31**]  05:04 PM
                             [**2136-7-31**]  11:38 PM
                             [**2136-8-1**]  02:53 AM
                             [**2136-8-1**]  02:50 PM
                             [**2136-8-1**]  04:13 PM
                             [**2136-8-1**]  11:54 PM
                             [**2136-8-2**]  03:19 AM
                             [**2136-8-2**]  02:03 PM
                             [**2136-8-2**]  04:40 PM
                             [**2136-8-3**]  03:51 AM
   WBC
   3.6
   2.8
   4.2
   2.8
   5.3
   Hct
   25.1
   28.5
   25.3
   25.7
   27.3
   Plt
   92
   104
   104
   106
   123
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   23
   24
   25
   27
   28
   Glucose
   131
   164
   133
   147
   96
   Other labs: PT / PTT / INR:14.4/26.6/1.3, ALT / AST:54/144, Alk Phos /
   T Bili:284/1.5, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:39.0 %,
   Mono:8.0 %, Eos:0.0 %, Fibrinogen:395 mg/dL, Lactic Acid:1.4 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   #  Respiratory failure - Patient intubated for airway protection in the
   setting of hemetemsis and AMS.  Pt with large aspiration of blood
   during intubation, continuing to have bright red blood from ETT
   suctioning
 persistent over several days.  Bright red blood still
   suctioned yesterday, but in much smaller volumes.
   -bronch yesterday showed much improvement - evidence of suction trauma
   at carina, with clot visualized in R bronchus.  However, no clear
   source of bleeding, very much improved from prior bronch.
   -continuing antibiotics for aspiration pna
 Cefepime day 5.  Vanco
   restarted (now day 3) for positive blood culture. Azithro d/c
   yesterday.
   -Vent yesterday weaned to [**3-27**] with ABG 7.41/42/104.
   - ipratropium and albuterol MDIs, holding advair for now.
   -blood cx pending, sputum cx neg, fungal cultures pending
 no new
   results.
   -C3 low, C4 borderline low, ANCA positive.
   - prednisone 40 daily started empirically for possible vasculitis (day
   [**1-26**]).
   -plan for extubation today.
   .
   #fevers - has had low grade fevers since admission, but afebrile
   yesterday, WBC normalized.
   -1/2 blood cultures on [**2136-7-30**] growing GPC - restarted vanco.  Cefepime
   as above-today is day 7 and will d/c cefepime today.  Since afebrile
   and GPC likely contaminant, will stop vanco.
   -RUQ Doppler showed no evidence of ascites or PVT
   -fungal cultures sent - pending
   - beta glucan, galactomannan both negative
   .
   # UGIB - s/p EGD which showed no varices, but multiple ulcers and s/p
   clipping of ulceration with clot in lesser curvature of fundus.
   Findings more consistent with NSAID-induced vs H Pylori PUD.  Pt with
   recent history of motrin use per family though dosage uncertain.
   - lactulose, PPI, abx per hepatology - now with good stool output.
   - monitor Hct daily, or more frequently if bleeding, has been stable.
   Transfusion goal Hct<21.
   -follow coags - stable.
   -h pylori neg
   -keep active type and screen
   .
   # Hepatitis C treatment
 off ribaviron; f/u hepatology recs.
   .
   # Depression/anxiety
 on sertraline.
   .
   # ?enlarged heart: TTE
 hyperdynamic, EF > 75%
   .
   # hypernatremia; Na improved with D5W.
   - will increase FW with tube feeds
   -pm electrolytes
   .
   # FEN: IVF bolus PRN, replete electrolytes. Continue tube feeds
   increasing towards goal, continue reglan.
   -keep 500-1L negative
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-7-30**] 12:00 AM
   Arterial Line - [**2136-8-2**] 12:45 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   VAP:  HOB elevation, mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2136-08-03 09:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, GI Bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   About 100cc of blood suctioned this AM
   24 Hour Events:
 BRONCHOSCOPY - At [**2136-8-2**] 03:45 PM --> improvemtn in blood
   secretions overall
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2136-7-31**] 04:00 PM
   Cefipime - [**2136-8-2**] 10:03 PM
   Vancomycin - [**2136-8-3**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Fentanyl - [**2136-8-2**] 03:45 PM
   Midazolam (Versed) - [**2136-8-2**] 03:47 PM
   Furosemide (Lasix) - [**2136-8-2**] 11:03 PM
   Pantoprazole (Protonix) - [**2136-8-3**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-8-3**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 91 (82 - 108) bpm
   BP: 133/65(90) {93/51(68) - 172/83(117)} mmHg
   RR: 22 (9 - 48) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.4 kg (admission): 65 kg
   CVP: 8 (7 - 11)mmHg
   Total In:
                                                                  3,964 mL
                                                                    350 mL
   PO:
   TF:
                                                                    720 mL
                                                                      2 mL
   IVF:
                                                                  1,144 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                  1,610 mL
   Urine:
                                                                  1,385 mL
                                                                  1,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,829 mL
                                                                 -1,260 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (384 - 619) mL
   PS : 5 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 12 cmH2O
   SpO2: 92%
   ABG: 7.41/42/104/28/1
   Ve: 12.7 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Bronchial: slight on right otherwise clear)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   123 K/uL
   96 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   24 mg/dL
   113 mEq/L
   145 mEq/L
   27.3 %
   5.3 K/uL
        [image002.jpg]
                             [**2136-7-31**]  05:04 PM
                             [**2136-7-31**]  11:38 PM
                             [**2136-8-1**]  02:53 AM
                             [**2136-8-1**]  02:50 PM
                             [**2136-8-1**]  04:13 PM
                             [**2136-8-1**]  11:54 PM
                             [**2136-8-2**]  03:19 AM
                             [**2136-8-2**]  02:03 PM
                             [**2136-8-2**]  04:40 PM
                             [**2136-8-3**]  03:51 AM
   WBC
   3.6
   2.8
   4.2
   2.8
   5.3
   Hct
   25.1
   28.5
   25.3
   25.7
   27.3
   Plt
   92
   104
   104
   106
   123
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   23
   24
   25
   27
   28
   Glucose
   131
   164
   133
   147
   96
   Other labs: PT / PTT / INR:14.4/26.6/1.3, ALT / AST:54/144, Alk Phos /
   T Bili:284/1.5, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:39.0 %,
   Mono:8.0 %, Eos:0.0 %, Fibrinogen:395 mg/dL, Lactic Acid:1.4 mmol/L,
   Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   54 yo f with h/o Hepatitis C infection and cirrohsis presenting with
   UGIB.
   #  Respiratory failure: Bloody secretions decreased on bronch
   yesterday.  Cont prednisone 40mg daily.  Does still have some bloody
   secretions but mechanics good, pt alert and will aim to extubate this
   AM.
   # Fevers: Continue vanc (day 5)/azithro/cefepime (day3)
   # UGIB: Hct stable.  PPI
   # HyperNa: improving
   Remainder of issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-7-30**] 12:00 AM
   Arterial Line - [**2136-8-2**] 12:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   D/C vancomycin.  Cefepime actually day 7
 will d/c as well.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1776**] [**Name8 (MD) **], MD
   on:[**2136-8-3**] 09:42 ------

2136-08-04 07:06:00 Physician Resident Progress Note
Chief Complaint: c/o headache (improved with morphine), abdominal pain
   (relieved with protonix), chest pain worse with deep breaths (EKG
   stable with old TWI in V1-V4). Hypertensive to 180's systolic, gave
   hydral and came down to 150's.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2136-8-3**] 11:21 AM
 ARTERIAL LINE - STOP [**2136-8-3**] 03:31 PM
 EKG - At [**2136-8-4**] 05:24 AM
   -extubated
   -still with some bloody secretions; PM HCT-->stable
   -Sodium 145-->140.
   -not aspiration risk, eating and drinking fine
   -removed flexiseal despite very loose stools and perianal irritation
   b/c patient very distraught about having it in
   -wanted to remove IJ, but could only get 1 20gauge peripheral IV
   -goal UOP 500-1L negative, which she met so no lasix
   -liver requested HCV RNA, cryo, C3, C4
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2136-8-2**] 10:03 PM
   Vancomycin - [**2136-8-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-8-3**] 08:32 PM
   Morphine Sulfate - [**2136-8-4**] 05:25 AM
   Hydralazine - [**2136-8-4**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-8-4**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 73 (71 - 108) bpm
   BP: 171/81(101) {128/57(85) - 184/120(133)} mmHg
   RR: 20 (16 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.4 kg (admission): 65 kg
    CVP: 3 (3 - 3)mmHg
   Total In:
                                                                  1,211 mL
   PO:
                                                                    440 mL
   TF:
                                                                      2 mL
   IVF:
                                                                    419 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    630 mL
   Urine:
                                                                  2,840 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,629 mL
                                                                   -630 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 12.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   113 K/uL
   8.0 g/dL
   79 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   17 mg/dL
   106 mEq/L
   138 mEq/L
   25.7 %
   4.6 K/uL
        [image002.jpg]
                             [**2136-8-1**]  02:53 AM
                             [**2136-8-1**]  02:50 PM
                             [**2136-8-1**]  04:13 PM
                             [**2136-8-1**]  11:54 PM
                             [**2136-8-2**]  03:19 AM
                             [**2136-8-2**]  02:03 PM
                             [**2136-8-2**]  04:40 PM
                             [**2136-8-3**]  03:51 AM
                             [**2136-8-3**]  04:38 PM
                             [**2136-8-4**]  03:48 AM
   WBC
   3.6
   2.8
   4.2
   2.8
   5.3
   4.8
   4.6
   Hct
   25.1
   28.5
   25.3
   25.7
   27.3
   27.6
   25.7
   Plt
   92
   104
   104
   106
   123
   125
   113
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   25
   27
   28
   Glucose
   131
   164
   133
   147
   96
   135
   79
   Other labs: PT / PTT / INR:15.1/28.7/1.3, ALT / AST:54/144, Alk Phos /
   T Bili:284/1.5, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:39.0 %,
   Mono:8.0 %, Eos:0.0 %, Fibrinogen:395 mg/dL, Lactic Acid:1.4 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Imaging: 1. Endotracheal tube should be advanced 3 cm for more optimal
   positioning.
   2. Persistent confluent consolidation in the right upper lung may
   reflect
   known pulmonary hemorrhage. Improved multifocal opacities in the left
   lung
   and at the right base likely reflect improved pulmonary edema.
   Microbiology: [**2136-8-4**]  IMMUNOLOGY HCV VIRAL LOAD-PENDING INPATIENT
   [**2136-8-1**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2136-7-31**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2136-7-31**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2136-7-31**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST,
   YEAST} INPATIENT
   [**2136-7-31**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2136-7-31**]  MRSA SCREEN MRSA SCREEN-FINAL INPATIENT
   [**2136-7-30**]  BLOOD CULTURE ( MYCO/F LYTIC BOTTLE) BLOOD/FUNGAL
   CULTURE-PRELIMINARY; BLOOD/AFB CULTURE-PRELIMINARY INPATIENT
   [**2136-7-30**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST,
   YEAST}; LEGIONELLA CULTURE-PRELIMINARY; FUNGAL CULTURE-PRELIMINARY
   {YEAST}; ACID FAST SMEAR-FINAL; ACID FAST CULTURE-PRELIMINARY INPATIENT
   [**2136-7-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2136-7-30**]  BLOOD CULTURE Blood Culture, Routine-PRELIMINARY
   {STAPHYLOCOCCUS, COAGULASE NEGATIVE}; Anaerobic Bottle Gram Stain-FINAL
   INPATIENT
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   # Chest Pain- Patient c/o chest pain this AM. EKG with no changes. CE
   pending. History most consistent with pleuritic nature
 likely
   secondary to pulmonary inflammation. Pain improved with oxycodone. Low
   suspicion for PE- good O2 sats, not tachycardic.
   -f/u CE
   -oxycodone PRN pain
   #  Respiratory failure - S/p extubation. Patient originally intubated
   for airway protection in the setting of hemetemsis and AMS.  Pt with
   large aspiration of blood during intubation, continuing to have bright
   red blood from ETT suctioning
 persistent over several days.  Bright
   red blood still suctioned 2 days ago on bronch, but in much smaller
   volumes.   Very little hemoptysis now.
   -d/c'ed all abx for PNA as afebrile, no white count -blood cx pending,
   sputum cx neg, fungal cultures pending
 no new results.
   - ipratropium and albuterol MDIs, holding advair for now.
   -C3 low, C4 borderline low, ANCA positive. As per liver, will repeat
   C3, C4, cryo pending
   - prednisone 40 daily started empirically for possible vasculitis (day
   [**2-26**]).
   -will repeat cryo, C3, C4
   .
   #fevers - has had low grade fevers since admission, but afebrile x 2
   days, WBC normalized.
   -1/2 blood cultures on [**2136-7-30**] growing GPC - restarted vanco.  Since
   afebrile and GPC likely contaminant, stopped vanco.
   -RUQ Doppler showed no evidence of ascites or PVT
   -fungal cultures sent - pending
   - beta glucan, galactomannan both negative
   .
   # UGIB - s/p EGD which showed no varices, but multiple ulcers and s/p
   clipping of ulceration with clot in lesser curvature of fundus.
   Findings more consistent with NSAID-induced vs H Pylori PUD.  Pt with
   recent history of motrin use per family though dosage uncertain.
   - lactulose, PPI, abx per hepatology - now with good stool output.
   - monitor Hct daily, or more frequently if bleeding, has been stable.
   Transfusion goal Hct<21.
   -follow coags - stable
   -h pylori neg
   -keep active type and screen
   .
   # Hepatitis C treatment
 off ribaviron for fevers; f/u hepatology recs
   as to when to restart. Getting PCR for HCV
   .
   # Depression/anxiety
 on sertraline.
   .
   # hypernatremia; Na improved now that taking PO's
   .
   # FEN: Regular diet (not aspiration risk as per nursing), replete as
   needed, no IVF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-7-30**] 12:00 AM
   20 Gauge - [**2136-8-3**] 06:30 PM
   Comments: a line d/c'ed yesterday
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2136-08-04 10:43:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Blood Loss Anemia, Hemoptysis, Respiratory
   Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2136-8-3**] 11:21 AM
 ARTERIAL LINE - STOP [**2136-8-3**] 03:31 PM
 EKG - At [**2136-8-4**] 05:24 AM --> for chest pain, no acute changes
   Allergies:
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2136-8-2**] 10:03 PM
   Vancomycin - [**2136-8-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2136-8-4**] 05:25 AM
   Hydralazine - [**2136-8-4**] 06:09 AM
   Pantoprazole (Protonix) - [**2136-8-4**] 08:02 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Chest pain, Tachycardia
   Gastrointestinal: Abdominal pain
   Neurologic: Headache
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-8-4**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 86 (71 - 100) bpm
   BP: 122/87(93) {122/57(85) - 184/120(133)} mmHg
   RR: 37 (16 - 41) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.4 kg (admission): 65 kg
   CVP: 3 (3 - 3)mmHg
   Total In:
                                                                  1,211 mL
                                                                    130 mL
   PO:
                                                                    440 mL
                                                                    120 mL
   TF:
                                                                      2 mL
   IVF:
                                                                    419 mL
                                                                     10 mL
   Blood products:
   Total out:
                                                                  2,840 mL
                                                                    805 mL
   Urine:
                                                                  2,840 mL
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,629 mL
                                                                   -675 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.56/30/81.[**Numeric Identifier **]/27/4
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   113 K/uL
   79 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.7 mEq/L
   17 mg/dL
   106 mEq/L
   138 mEq/L
   25.7 %
   4.6 K/uL
        [image002.jpg]
                             [**2136-8-1**]  02:50 PM
                             [**2136-8-1**]  04:13 PM
                             [**2136-8-1**]  11:54 PM
                             [**2136-8-2**]  03:19 AM
                             [**2136-8-2**]  02:03 PM
                             [**2136-8-2**]  04:40 PM
                             [**2136-8-3**]  03:51 AM
                             [**2136-8-3**]  04:38 PM
                             [**2136-8-4**]  03:48 AM
                             [**2136-8-4**]  08:14 AM
   WBC
   2.8
   4.2
   2.8
   5.3
   4.8
   4.6
   Hct
   28.5
   25.3
   25.7
   27.3
   27.6
   25.7
   Plt
   104
   104
   106
   123
   125
   113
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   25
   27
   28
   28
   Glucose
   164
   133
   147
   96
   135
   79
   Other labs: PT / PTT / INR:15.1/28.7/1.3, ALT / AST:54/144, Alk Phos /
   T Bili:284/1.5, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:39.0 %,
   Mono:8.0 %, Eos:0.0 %, Fibrinogen:395 mg/dL, Lactic Acid:1.3 mmol/L,
   Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   54 yo f with h/o Hepatitis C infection and cirrohsis presenting with
   UGIB.  R lung bleeding.
   #  Respiratory failure: Now extubated.  CXR continues to improve.  D/C
   prednisone tomorrow for completion of 7 days.
   # Fevers: Antibiotics D/C'd
   # UGIB: Hct stable.  PPI
   # Chest Pain: Complaining more of dyspnea when asked further - EKG not
   impressive, will check cardiac enzymes
   Remainder of issues per ICU resident note
   ICU Care
   Nutrition:
   Comments: Taking pos
   Glycemic Control:
   Lines:
   Multi Lumen - [**2136-7-30**] 12:00 AM
   20 Gauge - [**2136-8-3**] 06:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill